US07030128B2
3-(6-Bromopyridin-2-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)-imidazo[1,2-α]pyrimidine was coupled to 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile following the procedure in Example 2 to give 2-{6-[7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidin-3-yl]pyridin-2-yl}benzonitrile as an orange oil.

reactant | 3-(6-Bromopyridin-2-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)-imidazo[1,2-α]pyrimidine | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C20H27BrN4OSi
reactant | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | CC1(OB(OC1(C)C)C1=C(C#N)C=CC=C1)C | C13H16BNO2
product | 2-{6-[7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidin-3-yl]pyridin-2-yl}benzonitrile | CC(C)(O[Si](CC)(CC)CC)C1=NC=2N(C=C1)C(=CN2)C2=CC=CC(=N2)C2=C(C#N)C=CC=C2 | C27H31N5OSi
